US04000281
Preparation of 2-methyl-3-(4-pyridyl)-4-(2-hydroxyphenyl)-5-ethylpyrazole
From 2-n-butyl-3-isonicotinoyl-benzofuran M.P. 52° C. and n-butylhydrazine, 2,5-di-n-butyl-3-(4-pyridyl)-4-(2-hydroxyphenyl)-pyrazole M.P. 121° C.

reactant | 2-n-butyl-3-isonicotinoyl-benzofuran | C(CCC)C=1OC2=C(C1C(C1=CC=NC=C1)=O)C=CC=C2 | C18H17NO2
reactant | n-butylhydrazine | C(CCC)NN | C4H12N2
reactant | 2,5-di-n-butyl-3-(4-pyridyl)-4-(2-hydroxyphenyl)-pyrazole | C(CCC)N1N=C(C(=C1C1=CC=NC=C1)C1=C(C=CC=C1)O)CCCC | C22H27N3O
product | 2-methyl-3-(4-pyridyl)-4-(2-hydroxyphenyl)-5-ethylpyrazole | CN1N=C(C(=C1C1=CC=NC=C1)C1=C(C=CC=C1)O)CC | C17H17N3O
